US05665732
Step C: 1-Acetyl-6-fluoro-3-methyl-1H-indazole
6-Fluoro-3-methyl-1H-indazole (2.79 g, 18.6 mmol) in CH2Cl2 (50 mL) was treated with acetic anhydride (2.8 g, 30 mmol), Hunig's base (5.2 mL, 30 mmol) and DMAP (0.2 g, 1.7 mmol). The mixture was stirred 1 h at 20° C., poured into water (100 mL) and extracted with CH2Cl2 (2×100 mL). The extracts were dried (Na2SO4), concentrated and the residue recrystallised from hexane to give the title compound (3.41 g, 96%) as a white crystalline solid; mp 89°-91° C. (from hexane); 1H NMR (360 MHz, CDCl3) δ 8.05 (dd, J=9.4, 2.2 Hz, 1H, indazole), 7.51 (dd, J=8.7, 5.1 Hz, 1H, indazole), 7.03 (dt, J=8.8, 2.2 Hz, 1H, indazole), 2.67 (s, 3H, Me), 2.49 (s, 3H, Ac); MS (CI+) m/e 193 (M+H+); Anal. calcd for C10H9FN2O: C, 62.49; H, 4.72; N, 14.58. Found: C, 62.50; H, 4.79; N, 14.63.

reactant | 6-Fluoro-3-methyl-1H-indazole | 18.6 mmol, 2.79 g | FC1=CC=C2C(=NNC2=C1)C | C8H7FN2
reactant | acetic anhydride | 30 mmol, 2.8 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Hunig's base | 30 mmol, 5.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 100 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.7 mmol, 0.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-Acetyl-6-fluoro-3-methyl-1H-indazole | 3.41 g, 96% | C(C)(=O)N1N=C(C2=CC=C(C=C12)F)C | C10H9FN2O
